### PR TITLE
feat(ErdosProblems): 153

### LINKED ISSUE #390: Erdős Problem 153
### What is the conjecture
    
https://www.erdosproblems.com/153

  Let $A$ be a finite Sidon set and $A+A=\{s_1<\cdots<s_t\}$. Is it true that

$$\frac{1}{t}\sum_{1\leq i<t}(s_{i+1}-s_i)^2 \to \infty$$
as $\lvert A\rvert\to \infty$?

Status: open

### Prerequisites needed
None, Sidon sets are already in `ForMathlib`

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #390

### CODE REVIEW

File: FormalConjectures/ErdosProblems/153.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+    Theory (1994), 329-347.
+-/
+
+open scoped Pointwise
+open Filter Finset Nat
+
+/-- Suppose `A` is a finite Sidon set of size `n`. Then `(A + A).card = (n + 1).choose 2`. -/
+@[category API, AMS 5]
+theorem IsSidon.add_card {A : Finset ℕ} {n : ℕ} (hn : A.card = n) (hA : IsSidon A) :
+    (A + A).card = (n + 1).choose 2 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/153.lean]: Can you move this to the earlier file?

File: FormalConjectures/ErdosProblems/153.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+  · intro p hp q hq hf
+    have := hA p.1 p.1.2 q.1 q.1.2 p.2 p.2.2 q.2 q.2.2 hf
+    simp [← Subtype.coe_le_coe] at hp hq
+    grind
+
+namespace Erdos153
+
+/-- Suppose `A` is a finite Sidon set of size `n`. We define `s` to be the increasing order
+isomorphism between `Fin (n.choose 2 + n)` and `A + A`. -/
+def s {A : Finset ℕ} {n : ℕ} (hn : A.card = n) (hA : IsSidon A) : Fin ((n + 1).choose 2) → A + A :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/153.lean]: You don't need to know the size to write down the function and the statement
```suggestion
def s (A : Finset ℕ) : Fin (A + A).card → A + A :=
```

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/153.lean]: In fact you don't even need to know that the set is of the form `A + A`!

File: FormalConjectures/ErdosProblems/153.lean (hunk 1 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/153.lean]: May you be more specific about which file I should move this into? I think we can even create a new file named Sidon that contains API for Sidon sets.

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/153.lean]: Oh yes, please create `ForMathlib.Combinatorics.Additive.Sidon`

File: FormalConjectures/ErdosProblems/153.lean [hunk 3]
```diff
@@ -0,0 +1,63 @@
...
+    grind
+
+namespace Erdos153
+
+/-- Define `f n` to be the minimum of
+`∑ (i : Set.Ico 1 ((A + A).card), (s i - s (i - 1)) ^ 2 / n` as `A` ranges over all Sidon sets
+of size `n`, where `s` is an order embedding from `Fin n` into `A`. -/
+noncomputable def f (n : ℕ) : ℝ := ⨅ A : {A : Finset ℕ | A.card = n ∧ IsSidon A},
+  ∑ i : Set.Ico 1 ((A.1 + A).card), ((A.1 + A).orderIsoOfFin rfl ⟨i, i.2.2⟩ -
+  (A.1 + A).orderIsoOfFin rfl ⟨i - 1, by grind⟩) ^ 2 / (n : ℝ)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/153.lean]: What about
```suggestion
  let s := (A.1 + A).orderIsoOfFin rfl
  ∑ i \in {Fin.last (A.1 + A).card}^c, (s (i + 1) - s i) ^ 2 / (n : ℝ)
```

File: FormalConjectures/ErdosProblems/153.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/153.lean]: For the purpose of this PR, please simply remove this result as you don't need it anymore

File: FormalConjectures/ErdosProblems/153.lean (hunk 3 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/153.lean]: `Fin.last (A.1 + A).card` has type `Fin (#(↑A + ↑A) + 1)`, while `s` needs an input of type `Fin #(↑A + ↑A)`.

This does not work even if we use `Fin.last ((A.1 + A).card - 1)` because `i` will be of type `Fin (#(↑A + ↑A) - 1 + 1)`.
